US05218109
IN 1 ml of pyridine was dissolved 75 mg of 20-methyl-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-dien-21 -ol and, then, under ice-cooling, 0.05 ml of phosphorus tribromide was added. The mixture was stirred at the same temperature for 15 minutes. The reaction mixture was then poured into ice water and extracted with diethyl ether. The extract was washed with aqueous sodium hydrogen carbonate solution and aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give 53 mg of 21-bromo-20-methyl-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene.

reactant | 20-methyl-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-dien-21 -ol | 75 mg | CC(CO)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC | C26H38O7
reactant | phosphorus tribromide | 0.05 ml | P(Br)(Br)Br | Br3P
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 21-bromo-20-methyl-1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene | 53 mg | BrCC([C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC)C | C26H37BrO6
